US07238720B2
b) 3-(2-Methylimidazo[1,2-a]pyridin-3-yl)sulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole
To a mixture of 3-(2-methylimidazo[1,2-a]pyridin-3-yl)sulfonyl-1H-1,2,4-triazole (100 mg), anhydrous potassium carbonate (105 mg) and N,N-dimethylformamide (0.5 ml) was added dimethylcarbamoyl chloride (0.06 ml), and the reaction mixture was stirred at room temperature overnight. The reaction solution was extracted with ethyl acetate-water. The organic layer was washed with water, followed by saturated aqueous sodium chloride solution, and concentrated. The residue was subjected to a silica-gel column chromatography with 30 to 50% (20% 2-propanol/ethyl acetate)/hexane to yield the title compound (107 mg).

reactant | 3-(2-methylimidazo[1,2-a]pyridin-3-yl)sulfonyl-1H-1,2,4-triazole | 100 mg | CC=1N=C2N(C=CC=C2)C1S(=O)(=O)C1=NNC=N1 | C10H9N5O2S
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylcarbamoyl chloride | 0.06 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 3-(2-Methylimidazo[1,2-a]pyridin-3-yl)sulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole | 107 mg | CC=1N=C2N(C=CC=C2)C1S(=O)(=O)C1=NN(C=N1)C(N(C)C)=O | C13H14N6O3S
